Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([O:2][C:3](=[O:4])[N:5]([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:3]=[O:4])([H:6])([H:7])[H:8].[N:5]([H:9])[H:10],108.79293511999701
[C:1]([C@@:2]1([H:10])[C@@:3]2([H:11])[C:4]([H:12])([H:13])[C@:5]([H:14])([C:6]2([H:15])[H:16])[N:7]1[H:9])[H:8]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[C:4]([H:12])([H:13])[C@:5]([H:14])([C:6]3([H:15])[H:16])[N:7]12,3.454767449250717
[C:1]([O:2][C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9]>>[C:1]([C:4]([C:3]([O:2][H:7])([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],91.66321668708572
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C@:3]([C:6](=[O:4])[H:12])([H:11])[C:5]1)([H:7])([H:8])[H:9],79.4582575807055
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([C@@:4]1([H:12])[C:5]([H:13])([H:14])[O:6]1)[H:11]>>[C:1](=[C:2]([H:9])[H:10])([H:7])[H:8].[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])(=[O:6])[H:11],85.2415329453233
[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7]>>[O:1]=[C:2]([C:5]1=[N:6][C:4]1=[C:3])[H:7],101.995121356896
[C:1]([C@@:3]([O:4][H:12])([C@:5]([C:2][H:10])([O:6][H:14])[H:13])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9],24.949337769581604
[C:1]([N:4]([H:11])[H:12])([H:8])([H:9])[H:10].[N:2]#[C:3][C:5](=[O:6])[N:7]([H:13])[H:14]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],56.62391719145708
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]=[O:3])([H:8])[H:9].[C:4]([O:5][H:12])([C:6](=[O:7])[H:13])([H:10])[H:11],62.5485542662961
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[C:2](=[C:3](/[C:4]#[N:5])[H:12])(\[C:6]#[C:7][H:14])[H:13],111.54933642704701
[H:8][H:12].[O:1](/[C:2](=[C:3](/[N:4]=[C:5](\[O:6][H:10])[H:13])[H:11])[H:9])[H:7]>>[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],37.4605131209061
[C+:2]([C:4]#[C:5][H:12])=[C:6]=[N-:7].[C:1]([O:3][H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10],27.391452058606525
[C:1]([C:2](=[O:3])[O:5]/[C:4](=[C:6](\[O:7][H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],41.26805402700065
[C:1](=[C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([O:6][H:7])([H:15])[H:16])[H:11])[H:10])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([O:6][H:16])[H:15])([H:7])([H:8])[H:9],70.67386897562541
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]=[O:5])([H:7])([H:8])[H:9].[C:6]([H:10])([H:14])([H:15])[H:16],77.5999772747723
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:4]=[C:5]=[C:6]=[O:7])[H:11])([H:8])([H:9])[H:10].[C:3]([H:12])([H:13])([H:14])[H:15],70.9081666023452
[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:2](=[O+:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10].[C:1]([H:7])([H:8])([H:9])[H:11],73.4149027931137
[C:1]([N:2]([N:7]=[C:6]=[C:3]([C:4]#[N:5])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],43.225360730841
[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:2](=[C:3]([O:4][C:5](=[O:6])[H:12])[H:11])([H:8])[H:9].[O:1]([H:7])[H:10],66.7589476814816
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1](=[C:2]=[N:3][H:11])([H:8])[H:10].[O:4]([C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])[H:9],70.76605034350791
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8]>>[C-:4]1=[O+:6][C:5]1([H:12])[H:13].[O:1]([C:2]1([H:9])[C:3]([H:10])([H:11])[C:7]1([H:14])[H:15])[H:8],97.10760955227673
[C-:2](=[O+:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])[H:12].[C:1]([H:8])([H:9])([H:10])[H:11]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],15.341269972015901
[C:1]([C@@:2]1([C:5](=[O:6])[H:12])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:11].[C:2](=[C+:3][H:10])([O-:4])[C:5](=[O:6])[H:12],112.56669672955799
[H:7][H:9].[O:1]=[C:2]([C:3](=[O:4])[C:5]#[N:6])[H:8]>>[O:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:8])[H:9])[H:7],71.8539549806798
[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@@:2]([C:6](=[C-:7][H:15])[H:10])([H:11])[C:3]([H:12])([H:13])[C+:4]=[C:5]1[H:14],91.7921650939209
